US07319108B2
N′-(4-Butoxybenzoyl)-4-(3-dimethylaminopyrrolidin-1-yl)benzohydrazide
A mixture of 4-butoxybenzoic acid (156 mg) and DMF (10 ml) was mixed with TOTU (264 mg) and N,N-diisopropylethylamine (104 mg). After 10 minutes, 4-(3-dimethylaminopyrrolidin-1-yl)benzohydrazide (200 mg) was added. After one hour, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate, filtered and concentrated. The product with the molecular weight of 424.55 (C24H32N4O3) was obtained in this way; MS (ESI): 425 (M+H+).

reactant | 4-butoxybenzoic acid | 156 mg | C(CCC)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
reactant | TOTU | 264 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | N,N-diisopropylethylamine | 104 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(3-dimethylaminopyrrolidin-1-yl)benzohydrazide | 200 mg | CN(C1CN(CC1)C1=CC=C(C(=O)NN)C=C1)C | C13H20N4O
solvent | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N′-(4-Butoxybenzoyl)-4-(3-dimethylaminopyrrolidin-1-yl)benzohydrazide | C(CCC)OC1=CC=C(C(=O)NNC(C2=CC=C(C=C2)N2CC(CC2)N(C)C)=O)C=C1 | C24H32N4O3
